US07989438B2
Step 3: (4S)-3-(4-azidobutanoyl)-4-benzyl-1,3-oxazolidin-2-one
NEt3 was added to a stirred mixture of 4-azidobutanoic acid in THF (0.3 M) cooled to −78° C. and stirring was continued at this temperature for 10 min. Pivaloyl chloride (1.3 eq) was added dropwise. The resulting mixture was warmed to 0° C. and stirred for 1 h before re-cooling to −78° C. In a separate flask, (4S)-4-benzyl-1,3-oxazolidin-2-one was dissolved in THF (0.8 M) and cooled to −78° C. before dropwise addition of N-BuLi (1.6M, 1.35 eq.) over 10 min. The mixture was stirred at −78° C. for 1 h and then transferred into the −78° C. solution of mixed anhydride using a syringe. The reaction was stirred at −78° C. for 1 h, then at RT for a further 1 h. The reaction was quenched by addition of sat. aq. NH4Cl before partitioning between H2O and EtOAc. The layers were separated and the aqueous phase re-extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by FC eluting with 10 to 30% EtOAc/PE to give the product as a colourless oil (74%). (ES+) m/z 289 (M+H)+.

reactant | NEt3 | CCN(CC)CC | C6H15N
reactant | 4-azidobutanoic acid | N(=[N+]=[N-])CCCC(=O)O | C4H7N3O2
reactant | Pivaloyl chloride | 1.3 eq | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (4S)-4-benzyl-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
solvent | THF | 0.3 M | C1CCOC1 | C4H8O
solvent | THF | 0.8 M | C1CCOC1 | C4H8O
product | (4S)-3-(4-azidobutanoyl)-4-benzyl-1,3-oxazolidin-2-one | 74% | N(=[N+]=[N-])CCCC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C14H16N4O3
